US04079076
To 166 ml. of acetic anhydride was added 90% nitric acid (27.7 g.) under cooling at 25° C. over a 45 minute period. After an additional 5 minutes of stirring 20 g. of 1,3-hexadiene was added dropwise at 25° C. over 1 hour. Ice cooling was employed as required. The reaction was completed by stirring the mixture for an additional hour, followed by quenching in ice and water. Extraction with methylenechloride, washing with water, drying of the organic layers over anhydrous sodium sulfate and evaporation of the solvent and excess acetic anhydride resulted in 47.0 g. of a crude reaction product. Column chromatography and careful bulb to bulb distillation (oven 120° C., 0.5 mmHg) yielded actic acid (1-nitro-2-hexen-4-yl)ester.

reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | 27.7 g | [N+](=O)(O)[O-] | HNO3
reactant | 1,3-hexadiene | C=CC=CCC | C6H10
product | actic acid (1-nitro-2-hexen-4-yl)ester | [N+](=O)([O-])CC=CC(CC)OC(C)=O | C8H13NO4
